US05646173
1.15 ml of methanesulfonyl chloride were added dropwise while stirring to a solution, cooled to 0°, of 1.92 g of (RS)-1-(1,4-dihydro-8-methoxy[1]benzopyrano[4,3-b]pyrrol-1-yl)-propan-2-ol and 4.13 ml of triethylamine in 50 ml of anhydrous dichloromethane and the mixture was stirred at this temperature for an additional 1.5 hours. The reaction mixture was subsequently diluted with 280 ml of diethyl ether, washed twice with 70 ml of saturated sodium hydrogen carbonate solution each time and the combined aqueous phases were extracted once with 70 ml of diethyl ether. The combined organic phases were washed with 140 ml of saturated sodium chloride solution, dried over magnesium sulfate and evaporated in a vacuum. The brown oil obtained was dissolved in 50 ml of anhydrous dimethylformamide, treated with 0.96 g of sodium azide and the reaction mixture was heated to 60° while stirring for 18 hours. After cooling, the solution was poured into 140 ml of water and extracted twice with 140 ml of diethyl ether each time. The combined organic phases were washed once with 100 ml of water and once with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and the solution was concentrated in a vacuum. The brown oil obtained was purified by column chromatography on silica gel (toluene). 1.58 g (75%) of (RS)-1-(2-azido-propyl)-1,4-dihydro-8-methoxy-[1]benzopyrano[4,3-b]pyrrole were obtained as a colorless oil.

reactant | methanesulfonyl chloride | 1.15 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (RS)-1-(1,4-dihydro-8-methoxy[1]benzopyrano[4,3-b]pyrrol-1-yl)-propan-2-ol | 1.92 g | COC=1C=CC2=C(C1)C=1N(C=CC1CO2)CC(C)O | C15H17NO3
reactant | triethylamine | 4.13 ml | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 0.96 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 280 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 140 ml | O | H2O
product | (RS)-1-(2-azido-propyl)-1,4-dihydro-8-methoxy-[1]benzopyrano[4,3-b]pyrrole | 1.58 g, 75% | N(=[N+]=[N-])C(CN1C2=C(C=C1)COC1=C2C=C(C=C1)OC)C | C15H16N4O2
